US07582638B2
Alternatively, to a 5 L three-necked round-bottom flask equipped with overhead stirrer, thermocouple, reflux condenser, and an addition funnel, add potassium tert-butoxide in THF (3.00 L, 3.00 moles). Mix 1-methyl-cyclopropanecarboxylic acid ethyl ester (264.00 g, 2.06 moles) with acetonitrile (123.00 g, 3.00 moles), then add through an addition funnel over 0.5 hour to the butoxide solution. Heat the resulting mixture to reflux. Reflux 2 hours, then cool to <40° C. by adding methanol (96.00 g, 3.00 mL). Stir the mixture 10 minutes, then transfer the contents to a 12 L separatory funnel containing a vigorously stirring mixture of water (3.96 L, 219.81 moles) and MTBE (3.96 L, 33.32 moles). Separate the layers and extract the aqueous layer with MTBE (3.96 L, 33.32 moles). Adjust the pH of the aqueous layer from 12.5 to 3.5 using 5 N HCl (610.00 mL, 3.05 moles). Extract the aqueous layer with MTBE (2×1.32 L, 11.11). Combine the organic layers, dry over sodium sulfate (62.00 g, 436.49 moles), and filter to afford 3-(1-methyl-cyclopropyl)-3-oxo-propionitrile.

reactant | potassium tert-butoxide | CC(C)([O-])C.[K+]
reactant | THF | 3.00 moles, 3.00 L | C1CCOC1 | C4H8O
reactant | 1-methyl-cyclopropanecarboxylic acid ethyl ester | 2.06 moles, 264.00 g | C(C)OC(=O)C1(CC1)C | C7H12O2
reactant | acetonitrile | 3.00 moles, 123.00 g | C(C)#N | C2H3N
reactant | butoxide | [O-]CCCC
reactant | water | 219.81 moles, 3.96 L | O | H2O
reactant | MTBE | 33.32 moles, 3.96 L | CC(C)(C)OC | C5H12O
reactant | MTBE | 33.32 moles, 3.96 L | CC(C)(C)OC | C5H12O
reactant | HCl | 3.05 moles, 5 N, 610.00 mL | Cl | ClH
reactant | sodium sulfate | 436.49 moles, 62.00 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | 3.00 mL, 96.00 g | CO | CH4O
product | 3-(1-methyl-cyclopropyl)-3-oxo-propionitrile | CC1(CC1)C(CC#N)=O | C7H9NO
